US06897225B1
6-[4-(2-Methoxycarbonylphenyl)benzyl]-8-(3,5-dichlorophenyl)-1,8-diazabicyclo[4.3.0]nonane-7,9-dione
To a solution of 6-[4-(2-formylphenyl)benzyl]-8-(3,5-dichlorophenyl)-1,8-diazabicyclo[4.3.0]nonane-7,9-dione (0.206 g) in MeOH (20 mL) was added NaCN (0.204 g), AcOH (0.086 mL) and MnO2 (activated, 1.84 g) and the mixture was stirred overnight at room temperature. The inorganics were removed by filtration through Celite and the filtrate was evaporated. The residue was dissolved in EtOAc and washed with water, brine, dried (MgSO4), filtered, and concentrated. Purification by chromatography (Silica gel: EtOAc/hexane: 1/2) afforded the titled compound (0.161 g). It was converted to the HCl salt. MS (m/z) 545(M++Na), 523 (MH+).

reactant | 6-[4-(2-formylphenyl)benzyl]-8-(3,5-dichlorophenyl)-1,8-diazabicyclo[4.3.0]nonane-7,9-dione | 0.206 g | C(=O)C1=C(C=CC=C1)C1=CC=C(CC23CCCCN3C(N(C2=O)C2=CC(=CC(=C2)Cl)Cl)=O)C=C1 | C27H22Cl2N2O3
reactant | NaCN | 0.204 g | [C-]#N.[Na+]
reactant | AcOH | 0.086 mL | CC(=O)O | C2H4O2
solvent | MeOH | 20 mL | CO | CH4O
catalyst | MnO2 | 1.84 g | O=[Mn]=O
product | 6-[4-(2-Methoxycarbonylphenyl)benzyl]-8-(3,5-dichlorophenyl)-1,8-diazabicyclo[4.3.0]nonane-7,9-dione | 0.161 g | COC(=O)C1=C(C=CC=C1)C1=CC=C(CC23CCCCN3C(N(C2=O)C2=CC(=CC(=C2)Cl)Cl)=O)C=C1 | C28H24Cl2N2O4
